US06924278B2
To a stirred mixture of (2R)-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (943 mg) and potassium carbonate (880 mg) in dimethylformamide (10 ml) was added propargyl bromide (0.2 ml) at room temperature. After 1 hour, the reaction mixture was poured into water (100 ml) and extracted with ethyl acetate. The extract was washed with brine and concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel using a mixture of hexane and ethyl acetate (5:1) as eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-propargylpiperazine (1.09 g) as an oil.

reactant | (2R)-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 943 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | potassium carbonate | 880 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.2 ml | C(C#C)Br | C3H3Br
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-propargylpiperazine | 1.09 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C25H24F6N2O
